* C:\users\Niko\Desktop\projects\stylophone\sim\stylophonev01.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 0 stylus Tone Vcc Vibrato stylus N002 Vcc NE555
C2 stylus 0 100n
R§NOTE N002 stylus 27k
R1 Vcc N002 1k
X§U2 0 N001 N006 Vcc N007 N001 N003 Vcc NE555
C3 N007 0 10n
C4 N001 0 1µ
R2 Vcc N003 18k
R3 N003 N001 180k
R4 N006 Vibrato 10k
C1 Vibrato 0 5.6µ
X§U3 N005 N004 Vcc 0 N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R§Volume Tone N005 50k
V1 Vcc 0 5
R§Speaker out N004 8
R5 N005 0 100k
.tran 1
* f=1,44/(r1+2r2)*C. C4=261Hz
* vibrato
* Main Tone Generator
* Voltage follower. Required for high impedance load
.wave  output.wav 16 44.1k V(out)
.lib NE555.sub
.lib UniversalOpAmp1.lib
.backanno
.end
